US08071593B2
Preparation of methyl 3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]benzoate
A solution, kept under nitrogen, of 6.1 g (26.5 mmol) of methyl 3-(5-hydroxypyrimidin-2-yl)benzoate, 10.5 g (39.8 mmol) of triphenylphosphine and 4.76 ml (39.8 mmol) of 3-(dimethylamino)-1-propanol in 200 ml of THF is cooled in an ice bath, and 8.21 ml (39.8 mmol) of diisopropyl azodicarboxylate are subsequently slowly added dropwise with stirring. After stirring at room temperature for 2 hours, the reaction mixture is evaporated in vacuo. The residue is partitioned between dichloromethane and saturated aqueous potassium hydrogensulfate solution. The aqueous phase is separated off, adjusted to a pH of 12 using saturated aqueous sodium hydroxide solution and extracted twice with dichloromethane. The organic phase is dried over sodium sulfate and evaporated. The residue is chromatographed on a silica-gel column with dichloromethane/methanol as eluent:methyl 3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]benzoate as colourless crystals; m.p. 66° C.; ESI 316 (M+H); HPLC: 2.18 min (method B).

reactant | methyl 3-(5-hydroxypyrimidin-2-yl)benzoate | 26.5 mmol, 6.1 g | OC=1C=NC(=NC1)C=1C=C(C(=O)OC)C=CC1 | C12H10N2O3
reactant | triphenylphosphine | 39.8 mmol, 10.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(dimethylamino)-1-propanol | 39.8 mmol, 4.76 ml | CN(CCCO)C | C5H13NO
reactant | diisopropyl azodicarboxylate | 39.8 mmol, 8.21 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | methyl 3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]benzoate | CN(CCCOC=1C=NC(=NC1)C=1C=C(C(=O)OC)C=CC1)C | C17H21N3O3
